US07253164B2
To a solution of LDA (2M) in THF (3.26 mmol) in 2 mL of anhydrous THF at 0° C. and under nitrogen, a solution of (3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetic acid ethyl ester (1.62 mmol) in 4 mL of dry THF is added dropwise. The temperature of the reaction mixture is held at room temperature for 2 hours and then dropped to −78° C. A solution of 2-bromo acetic acid (1.64 mmol) in 2 mL of anhydrous THF is added and the temperature of the reaction is slowly let to rise to room temperature. HCl (1M) is added to reach pH=1. Ethyl ether is added and the phases are separated. The organic phase is dried on Na2SO4, the drying agent is filtered and the solvent evaporated. The crude product is purified by automated column chromatography (hexane/EtOAc) to give the product ethyl 2-(3,4-dihydro-4-(carboxymetyl)-3-oxo-2H-benzo[b][1,4]thiazin-2-yl)acetate. Yield: 50%. 1H NMR (400 MHz, CDCl3): δ 9.07 (bs, 1H), 7.38 (d, J=7.6 Hz, 1H), 7.27 (t, J=7.6 Hz, 1H), 7.07 (t, J=7.6 Hz, 1H), 6.93 (d, J=7.6 Hz, 1H), 4.69 (dd, 2H), 4.18 (dd, 2H), 3.99 (t, J=6.4 Hz, 1H), 3.04 (dd, J1=6.4 Hz, J2=16.8 Hz, 1H), 2.58 (dd, 1H), 1.26 (m, 3H).

reactant | LDA | 2M | [Li+].CC(C)[N-]C(C)C
reactant | (3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetic acid ethyl ester | 1.62 mmol | C(C)OC(CC1SC2=C(NC1=O)C=CC=C2)=O | C12H13NO3S
reactant | 2-bromo acetic acid | 1.64 mmol | BrCC(=O)O | C2H3BrO2
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3.26 mmol | C1CCOC1 | C4H8O
solvent | Ethyl ether | C(C)OCC | C4H10O
product | ethyl 2-(3,4-dihydro-4-(carboxymetyl)-3-oxo-2H-benzo[b][1,4]thiazin-2-yl)acetate | Yield: 50% | C(=O)(O)CN1C2=C(SC(C1=O)CC(=O)OCC)C=CC=C2 | C14H15NO5S
